US06716843B2
(S)-N-[4-Amino-5-oxo-5-(1-pyrrolidinyl)-pentyl]-1-propanesulphonamide Hydrochloride
Starting from (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine, 1-propanesulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Example 3.

reactant | (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C18H26N2O6
reactant | 1-propanesulphonyl chloride | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-N-[4-Amino-5-oxo-5-(1-pyrrolidinyl)-pentyl]-1-propanesulphonamide Hydrochloride | Cl.N[C@@H](CCCNS(=O)(=O)CCC)C(N1CCCC1)=O | InChI=1S/C12H25N3O3S.ClH/c1-2-10-19(17,18)14-7-5-6-11(13)12(16)15-8-3-4-9-15;/h11,14H,2-10,13H2,1H3;1H/t11-;/m0./s1
